US05525623
2-hydroxy-5-phenylbenzoic acid was synthesized as follows. A solution of tetrahydropyran (THP)-protected 4-phenylphenol (474 mg. 2 mmol., prepared from 4-phenylphenol by standard methods described in Green and Wuts at pp. 31-34) in anhydrous THF (5 mL) was cooled to -78° C. and treated with n-Butyllithium (2 mL of 1.6M in hexanes). The reaction mixture was stirred and warmed to ambient temperature during which a tan suspension formed. After 2 hours, the reaction mixture was cooled to -78° C. and treated with excess anhydrous CO2 for several minutes. The reaction mixture was stirred and warmed to ambient temperature. After 2 hours, the reaction mixture was partitioned between ethyl ether and aqueous 1N NaOH. The aqueous layer was cooled to 0° C. with ice and acidified to pH 2 with aqueous 1N HCl. The aqueous solution was partitioned with methylene chloride. The organic layer was dried over magnesium sulfate. Concentration in vacuo yielded crude product as an off-white solid (258 mg, 2-hydroxy-5-phenylbenzoic acid). NMR spectroscopy of the crude material was consistent with the expected structure. 1H NMR (DMSO-d6) δ8.04 (d, J=3 Hz, 1H), 7.76 (dd, J=9, 3 Hz, 1H), 7.62 (d, J=7 Hz, 2H), 7.44 (t, J=7 Hz, 2H), 7.32 (t, J=7 Hz, 1H), 7.00 (d, J=9 Hz, 1H). Mass calculated: 466.5. Mass found 467.2. LC Gradient 25-45% acetonitrile over 13 minutes. LC retention time 3.5 minutes. The material was used without further purification.

reactant | tetrahydropyran | O1CCCCC1 | C5H10O
reactant | 4-phenylphenol | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | n-Butyllithium | 1.6M, 2 mL | C(CCC)[Li]
reactant | CO2 | C(=O)=O | CO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-hydroxy-5-phenylbenzoic acid | OC1=C(C(=O)O)C=C(C=C1)C1=CC=CC=C1 | C13H10O3
